US06596758B1
a) 2,3-Dihydro-4-(ethoxycarbonyl)-benzoxepine
A mixture of 8.2 g (0.043 mol) of 2,3-dihydro-4-carboxybenzoxepine in 150 ml of ethanol and 5 ml of concentrated sulphuric acid is brought to reflux for 6 hours. The reaction mixture is subsequently concentrated under reduced pressure and the residue is taken up in water. The combined mixture is extracted with ethyl acetate. The organic phase is then washed with sodium bicarbonate and then with water and dried over anhydrous sodium sulphate before being concentrated under reduced pressure. 8.5 g of an orange oil are thus obtained.

reactant | 2,3-dihydro-4-carboxybenzoxepine | 0.043 mol, 8.2 g | C(=O)(O)C=1CCOC2=C(C1)C=CC=C2 | C11H10O3
reactant | ethanol | 150 ml | C(C)O | C2H6O
solvent | sulphuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | 2,3-Dihydro-4-(ethoxycarbonyl)-benzoxepine | 8.5 g | C(C)OC(=O)C=1CCOC2=C(C1)C=CC=C2 | C13H14O3
